US07585874B2
6-Methyl-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
As described for Example 2, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (112 mg, 0.4 mmol) was converted, using 2-amino-5-methylpyridine instead of 2-amino-3-methylpyridine, to the title compound (24 mg, 21%) which was obtained as a yellow oil. MS: m/e=290.1 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | 2-amino-5-methylpyridine | NC1=NC=C(C=C1)C | C6H8N2
product | 6-Methyl-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 24 mg, 21% | CC=1C=CC=2N(C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C18H15N3O
